US08097759B2
2-Acetoxy-5-chloro-N-[2-chloro-5-(trifluoromethyl)phenyl]benzamide (Compound No. 130)
Using 5-chloro-N-[2-chloro-5-(trifluoromethyl)phenyl]-2 hydroxybenzamide and acetyl chloride as the raw materials, the same operation as the example 96 gave the title compound.

reactant | 5-chloro-N-[2-chloro-5-(trifluoromethyl)phenyl]-2 hydroxybenzamide | ClC=1C=CC(=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)Cl)C1)O | C14H8Cl2F3NO2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 2-Acetoxy-5-chloro-N-[2-chloro-5-(trifluoromethyl)phenyl]benzamide | Yield: 34.0% | C(C)(=O)OC1=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)Cl)C=C(C=C1)Cl | C16H10Cl2F3NO3
